US08183246B2
4-{[(2S)-2-Hydroxypropyl](methyl)amino}butyric acid tert.-butyl ester
Add 0.62 ml (670 mg, 7.81 mmol) of 35% aqueous formaldehyde solution and 101 mg (1.61 mmol) sodium cyanoborohydride to a solution of 350 mg (1.61 mmol) 4-{[(2S)-2-hydroxypropyl]amino}butyric acid tert.-butyl ester in 10 ml methanol. Stir the reaction mixture for 16 h at room temperature. After adding 30 ml water and 40 ml dichloromethane, dry the organic phase over sodium sulphate, and filter. Concentrate the filtrate by vacuum evaporation, and dry. 323 mg (81% of theor.) of the desired product is obtained.

reactant | formaldehyde | 7.81 mmol, 0.62 ml, 670 mg | C=O | CH2O
reactant | sodium cyanoborohydride | 1.61 mmol, 101 mg | C(#N)[BH3-].[Na+]
reactant | 4-{[(2S)-2-hydroxypropyl]amino}butyric acid tert.-butyl ester | 1.61 mmol, 350 mg | C(C)(C)(C)OC(CCCNC[C@H](C)O)=O | C11H23NO3
reactant | water | 30 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-{[(2S)-2-Hydroxypropyl](methyl)amino}butyric acid tert.-butyl ester | C(C)(C)(C)OC(CCCN(C)C[C@H](C)O)=O | C12H25NO3
